US07812022B2
N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (0.1 g, 0.218 mmol) and 3-chloro-4-{[2-(methyloxy)ethyl]oxy}aniline (0.057 g, 0.283 mmol) were combined in a microwave safe reaction vessel. Ethylene glycol dimethyl ether (1.5 mL) and HCl (˜½ drop) were then added and the resulting mixture was heated in a microwave to 160° C. for 8 min. The reaction was then cooled to rt diluted with EtOAc (100 mL) and water (50 mL). The organic layer was separated, washed with brine (50 mL), dried over Na2SO4, filtered and concentrated in vacuo onto silica gel. This was then purified via silica gel chromatography (EtOAc/Hexanes) to provide 55 mg of the title compound. 1H NMR (400 MHz, DMSO-d6): δ 10.92 (s, 1H), 9.53 (s, 1H), 8.83 (d, 1H), 8.42 (br m, 1H), 8.25 (d, 1H), 8.00 (s, 1H), 7.93 (s, 1H), 7.80 (d, 1H), 7.62-7.42 (m, 4H), 7.33 (d, 1H), 7.24 (m, 2H), 7.12 (m, 1H), 7.03 (d, 1H), 6.52 (d, 1H), 4.11 (m, 2H), 3.65 (m, 2H), 3.30 (s, 3H); HRMS: calc. C33H26N6O3F2 (M+H)+ 627.1723 found 627.1732.

reactant | N-{3-[3-(2-Chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.218 mmol, 0.1 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | 3-chloro-4-{[2-(methyloxy)ethyl]oxy}aniline | 0.283 mmol, 0.057 g | ClC=1C=C(N)C=CC1OCCOC | C9H12ClNO2
reactant | Ethylene glycol dimethyl ether | 1.5 mL | COCCOC | C4H10O2
catalyst | HCl | ˜½ drop | Cl | ClH
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
product | N-[3-(3-{2-[(3-Chloro-4-{[2-(methyloxy)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2,6-difluorobenzamide | 55 mg | ClC=1C=C(C=CC1OCCOC)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C33H25ClF2N6O3
